US05714498
Step 2: 2-(4-Benzyloxy-1,2,3,6-tetrahydropyridin-1-ylmethyl)benzimidazole
Prepared from 4-benzyloxy pyridine and 2-(chloromethyl) benzimidazole in an analagous manner to that described previously. M.p. 170°-172° C. (PhMe); (Found: C, 75.19; H, 6.45; N, 13.02. C20H21N3O requires C, 75.21; H, 6.63; N, 13.16%). δH (CDCl3) 2.35 (2H, br s, tetrahydropyridinyl 3-CH2), 2.81 (2H, t, J 5.6 Hz, tetrahydropyridinyl 2-CH2), 3.21 (2H, br s, tetrahydropyridinyl 6-CH2), 3.98 (2H, s, NCH2Ar), 4.75 (1H, br s, tetrahydropyridinyl 5-CH), 4.81 (2H, s, PhCH2O), 7.22-7.27 (3H, m, ArH), 7.31-7.37 (6H, m, ArH), and 7.56 (1H, br s, NH); m/z (CI+, NH3), 336 (M+NH4)+.

reactant | 4-benzyloxy pyridine | C(C1=CC=CC=C1)OC1=CC=NC=C1 | C12H11NO
reactant | 2-(chloromethyl) benzimidazole | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | NH3 | N | H3N
solvent | PhMe | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Benzyloxy-1,2,3,6-tetrahydropyridin-1-ylmethyl)benzimidazole | C(C1=CC=CC=C1)OC=1CCN(CC1)CC=1NC2=C(N1)C=CC=C2 | C20H21N3O
